US03947512
200 Parts by weight of 1-amino-2-methyl-4-nitrobenzene were diazotized at 0° - 5° C with 400 parts by weight of 30% hydrochloric acid and 235 parts by weight of 40% sodium nitrite solution. The clarified diazo solution was allowed to run, with slight external cooling, below the surface of a mixture of 1300 parts by weight of 30% hydrochloric acid, 33 parts by weight of crystalline copper sulfate and 330 parts by weight of 40% sodium bisulfite lye, while adding at the same time further 330 parts by weight of 40% sodium bisulfite lye. After about 45 minutes, the sulfonic acid chloride that had separated was filtered off with suction, washed with 2000 parts by volume of cold water and dried. The 2-methyl-4-nitrobenzene-sulfonic acid chloride was obtained in a yield of 85% of the theory and was found to melt at 105° - 106° C.

reactant | 1-amino-2-methyl-4-nitrobenzene | NC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H8N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-methyl-4-nitrobenzene-sulfonic acid chloride | yield of 85% | CC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO4S
